datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CC)CC)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)CC)CCCCCC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:10]C([H])/C(C)=C([C:20](C)=[O:21])/O>>[O-:21][C:20]1(C)[O:10]C([H])C(C)=C1O 10=20;20,21=21"
"[H][NH+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C)C([H])[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"[O:20]=[C:21](OCC)OC.C1=CC=CC=C1[O:10][Na]>>C1=CC=CC=C1[O+:10]([Na])[C:21]([O-:20])(OCC)OC 10=21;21,20=20"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])CC)CCCCCC.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)CC)CCCCCC 21=20;20,10=10"
"[H][NH:10][H].[H][NH+:21]=[C:20]([NH][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21][H])([NH][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][O:10]C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[O:20]=[C:21](OC1=CC=CC=C1)O[H].C1=CC=CC=C1[O:10][K]>>C1=CC=CC=C1[O+:10]([K])[C:21]([O-:20])(OC1=CC=CC=C1)O[H] 10=21;21,20=20"
"[O-:21][C:20]1(C)C(C)=C([H])C([H])C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)C([H])/C([H])=C(C)\[C:20](C)=[O:21] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC)C1=CC=CC=C1)[H]>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC)C1=CC=CC=C1)[H] 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C([H])[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C([H])[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21][H])([O]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].[H][NH+:21]=[C:20]([O]CC)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CC[S:10][H].[H][O+:21]=[C:20]([O]C)[O]CC.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][H])([O]C)[O]CC 10=20;20,21=21"
"CC[NH:10][H].CC[NH+:21]=[C:20]([O]CC)[NH][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]CC)([O]CC)[NH][H] 10=20;20,21=21"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)CCCCCC)CC>>CC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CC.[O-:21]CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](CC)[S]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CCCCCC)[H])[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CCCCCC)[H])C 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21][H])([O][H])[O][H].[Cl-]>>[Cl-].C[NH:10][H].[H][NH+:21]=[C:20]([O][H])[O][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[Cl:21])CCCCCC)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)[H].[Cl-:21] 10=20;20,21=21"
"[H][O:10][H].[H][NH+:21]=[C:20]([O][H])[NH]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21][H])([O][H])[NH]C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]([NH:21]C)([NH]CC)[NH]C.[Cl-]>>[Cl-].CC[NH:10][H].C[NH+:21]=[C:20]([NH]CC)[NH]C 21=20;20,10=10"
"[NH:10]([H])C(C)C([H])/C([H])=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C([H])C([H])C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[S]CC.[Cl-]>>[Cl-].[H][O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[S]CC 21=20;20,10=10"
"C[S:10][H].[H][O+:21]=[C:20]([S]CC)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][H])([S]CC)[S]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([Na])C([H])C(O)C([C:20]([H])=[O:21])[H]>>[O-:21][C:20]1([H])[O+:10]([Na])C([H])C(O)C1[H] 10=20;20,21=21"
"[O-:21][C:20]2([NH+:10](CC)C(C7=C2C=CC=C7)[H])OCC>>[NH:10](CC)C(C(C=CC=C9)=C9[C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
